US08378104B2
Intermediate 41: 1-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone
A solution of 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine hydrochloride (3.66 g, 11.7 mmol) in DMF (109.8 mL) was charged with acetyl chloride (0.91 mL, 12.84 mmol) and DIPEA (5.08 mL, 29.17 mmol) at 0° C. and left to warm up to RT in an ice bath overnight. The crude product was concentrated in vacuo to a solid and purified by flash chromatography (0 to 5% MeOH:EtOAc) to afford 3.71 g (99%) of the title compound. 1H NMR (400 MHz, DMSO-d6): δ 7.97 (s, 1H), 7.59 (s, 1H), 4.38-4.48 (m, 2H), 3.85-3.94 (m, 1H), 3.13-3.22 (m, 1H), 2.69 (td, J=12.8, 2.7 Hz, 1H), 2.03 (s, 3H), 1.81-2.02 (m, 3H), 1.72 (qd, J=12.1, 4.6 Hz, 1H), 1.24 (s, 12H).

reactant | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine hydrochloride | 11.7 mmol, 3.66 g | Cl.CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCNCC1)C
reactant | acetyl chloride | 12.84 mmol, 0.91 mL | C(C)(=O)Cl | C2H3ClO
reactant | DIPEA | 29.17 mmol, 5.08 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 109.8 mL | CN(C)C=O | C3H7NO
product | 1-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone | 3.71 g, 99% | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(C)=O)C | C16H26BN3O3
